US07141583B2
(5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-hydroxymethyloxazolidin-2-one
4-(2-Fluoro-4-benzyloxycarbonylaminophenyl)-3,6-dihydro-2H-thiopyran (15.3 g, 44.6 mM) was dissolved in dry tetrahydrofuran (175 ml) and stirred under nitrogen at −70° C. n-Butyllithium (1.6M in hexanes, 30 ml, 175 mM) was run in over 20 minutes, keeping the temperature below −60°, and the mixture then stirred a further 10 minutes at −70° C. A solution of (R)-glycidyl butyrate (6.42 g, 44.62 mM) dissolved in dry tetrahydrofuran (10 ml) was added dropwise over 10 minutes keeping temperature below −60°, and the mixture left to warm to ambient temperature over 18 hours. Methanol (29 ml) was added, and the mixture stirred for 10 minutes only. Saturated aqueous sodium bicarbonate (200 ml) was added, and the mixture extracted with ethyl acetate (400 ml). The extract was washed with saturated aqueous sodium bicarbonate (100 ml), brine (100 ml), dried (magnesium sulfate). Filtered and evaporated. The crude product was purified on a 300 g silica sinter column, eluting with a gradient from 0% to 100% ethyl acetate in dichloromethane. Relevant fractions were combined, reduced to a small volume, and diluted with an excess of isohexane to precipitate the desired product (11.3 g). MS (ESP): 310 (MH+) for C15H16FNO3S

reactant | 4-(2-Fluoro-4-benzyloxycarbonylaminophenyl)-3,6-dihydro-2H-thiopyran | 44.6 mM, 15.3 g | FC1=C(C=CC(=C1)NC(=O)OCC1=CC=CC=C1)C=1CCSCC1 | C19H18FNO2S
reactant | n-Butyllithium | 1.6M, 30 ml | C(CCC)[Li]
reactant | (R)-glycidyl butyrate | 44.62 mM, 6.42 g | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Methanol | 29 ml | CO | CH4O
product | (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-hydroxymethyloxazolidin-2-one | S1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C15H16FNO3S
